data/oMe_Silver.jsonl
{"reaction_id": "NR-230_1-C=C(C)C_2-Cc1ccc(cc1)","level": "hard","name": "Pummerer Rearrangement","reactants_smiles": ["O=C(C)OC(=O)C","S(=O)(CC=C(C)C)(Cc1ccc(cc1))"],"products_smiles": ["O=C(C)OC(C=C(C)C)S(Cc1ccc(cc1))"],"conditions": "Acetic anhydride","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[S+](OC([O-])(C)OC(=O)C)(CC=C(C)C)(Cc1ccc(cc1))","step_weight": 0,"rationale": "Acetic anhydride acylates the sulfoxide oxygen due to its high electrophilicity, generating an oxysulfonium ion stabilized by resonance with sulfur, making the α-protons more acidic."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[S+](OC(=[O])(C))(CC=C(C)C)(Cc1ccc(cc1))","step_weight": 0,"rationale": "Elimination of acetate occurs because it is a good leaving group, forming a sulfonium species with an electron-deficient α-carbon primed for rearrangement."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[S+](=CC=C(C)C)(Cc1ccc(cc1))","step_weight": 0,"rationale": "The α-carbon adjacent to the positively charged sulfur becomes electrophilic, enabling intramolecular rearrangement via C–S bond migration to stabilize the cation."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(C)OC(C=C(C)C)S(Cc1ccc(cc1))","step_weight": 0,"rationale": "Acetate attacks the α-carbon, displacing the sulfonium charge and forming the α-acyloxy sulfide, driven by the nucleophilicity of acetate and product stability."}],"description": "In acetic anhydride, the sulfoxide oxygen is activated toward rearrangement by electrophilic acylation, forming an oxysulfonium intermediate. This facilitates α-proton removal and rearrangement to a stabilized cation, which is trapped by acetate to yield the α-acyloxy sulfide product."}
{"reaction_id": "NR-003_1-CC_2-CC","name": "Acyoin Condensation","level": "medium","reactants_smiles": ["C(=O)(CC)(OCC)"],"products_smiles": ["O=C(CC)C(O)CC"],"conditions": "Na, then H2O workup","mechanism": [{"step": 1,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "[C]([O-])(CC)(OCC)","step_weight": 0,"rationale": "Sodium metal donates an electron to the ester carbonyl, forming a radical anion stabilized by resonance between the carbonyl and alkoxide oxygen."},{"step": 2,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "C([O-])(CC)(OCC)C([O-])(CC)(OCC)","step_weight": 0,"rationale": "Two carbon-centered radicals couple due to high radical reactivity, forming a C–C bond between α-carbons adjacent to electron-withdrawing carbonyls."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(CC)C(=O)CC","step_weight": 0,"rationale": "Alkoxide elimination occurs as the leaving group is stabilized by resonance and sodium counterion, forming a more conjugated 1,2-diketone."},{"step": 4,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "[O-]C(CC)=C([O])CC","step_weight": 0,"rationale": "A second electron from sodium reduces one carbonyl to a radical anion, favored by the electrophilicity of the carbonyl carbon."},{"step": 5,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "[O-]C(CC)=C([O-])CC","step_weight": 0,"rationale": "Further electron transfer reduces the other carbonyl, producing a dianion stabilized by delocalization over both oxygens."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O=C(CC)C([O-])CC","step_weight": 0,"rationale": "Proton transfer from solvent or protic impurities protonates one alkoxide, driven by the high basicity of the oxygen anion."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O=C(CC)C(O)CC","step_weight": 0,"rationale": "Final protonation during aqueous workup yields the neutral α-hydroxyketone, favored by the stability of the carbonyl and alcohol functionalities."}],"description": "In the acyloin condensation, sodium donates electrons to ester carbonyls, generating radical anions that couple to form a 1,2-diketone intermediate. Subsequent electron transfers and protonations under reductive conditions yield the α-hydroxyketone product after aqueous workup."}
